US06806287B2
To a solution of γ-nonalactone (0.32 ml, 2 mmol) in thionyl chloride (164 μl, 2.25 mmol), zinc chloride (12 mg, 0.088 mmol) is added at room temperature and the mixture is stirred for 24 h. Excess methanol is added and the reaction mixture is stirred for 10 min and then concentrated under reduced pressure to give 4-chloro-nonanoic acid methyl ester used as such.

reactant | γ-nonalactone | 2 mmol, 0.32 ml | CCCCCC1CCC(=O)O1 | C9H16O2
reactant | thionyl chloride | 2.25 mmol, 164 μl | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
catalyst | zinc chloride | 0.088 mmol, 12 mg | [Cl-].[Zn+2].[Cl-]
product | 4-chloro-nonanoic acid methyl ester | COC(CCC(CCCCC)Cl)=O | C10H19ClO2
